### PR TITLE
[Merged by Bors] - feat: norm_num extension for abs

### PR DESCRIPTION
**Pull request by dwrensha**
Adds a `norm_num` extension for the [absolute value operator](https://github.com/leanprover-community/mathlib4/blob/3a941a8fd0acf2b70463b31aeb8ce08bb214a512/Mathlib/Algebra/Order/Group/Unbundled/Abs.lean#L39-L40).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by dwrensha** [comment]
this work was inspired by this discussion on zulip: [#new members > norm_num and abs @ 💬](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/norm_num.20and.20abs/near/537034286)

File: Mathlib/Tactic/NormNum/Abs.lean [hunk 1]
```diff
@@ -0,0 +1,87 @@
...
+    return .isNat _ _ q(isNat_abs_neg $pa)
+  | .isNNRat dsα' qe' nume' dene' pe' =>
+    let rα : Q(DivisionRing $α) ← synthInstanceQ q(DivisionRing $α)
+    let loα : Q(LinearOrder $α) ← synthInstanceQ q(LinearOrder $α)
+    let isorα : Q(IsStrictOrderedRing $α) ← synthInstanceQ q(IsStrictOrderedRing $α)
+    haveI' : $e =Q |$a| := ⟨⟩
+    assumeInstancesCommute
+    return .isNNRat _ qe' _ _ q(isNNRat_abs_nonneg $pe')
+  | .isNegNNRat dα' qe' nume' dene' pe' =>
+    let rα : Q(DivisionRing $α) ← synthInstanceQ q(DivisionRing $α)
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/Abs.lean]: I think you already have this as dα?

Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: Indeed! Updated.

File: Mathlib/Tactic/NormNum/Abs.lean [hunk 2]
```diff
@@ -0,0 +1,87 @@
...
+# `norm_num` plugin for `abs`
+
+TODO: plugin for `mabs`
+-/
+
+namespace Mathlib.Meta.NormNum
+
+open Lean.Meta Qq
+
+theorem isNat_abs_nonneg {α : Type*} [Ring α] [LinearOrder α] [IsStrictOrderedRing α]
```
Comment (plp127) [inline Mathlib/Tactic/NormNum/Abs.lean]: pretty sure you don't need a linear order for any of these

Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: I need it for [`Nat.abs_cast`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Cast/Order/Ring.html#Nat.abs_cast). Do you have a proof that avoids this lemma?

Comment (vihdzp) [reply Mathlib/Tactic/NormNum/Abs.lean]: That theorem does not need a `LinearOrder` instance either: #29233

Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: Done in 530e7471f9034091f34a5ba5347d5458c86866a2

File: Mathlib/Tactic/NormNum/Abs.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+/-- The `norm_num` extension which identifies expressions of the form `|a|`,
+such that `norm_num` successfully recognises `a`. -/
+@[norm_num |_|] def evalAbs : NormNumExt where eval {u α} e := do
+  let .app (f : Q($α → $α)) (a : Q($α)) ← whnfR e | failure
+  let ra ← derive a
+  match ra with
+  | .isBool ..  => failure
+  | .isNat sα na pa =>
+    let rα : Q(Ring $α) ← synthInstanceQ q(Ring $α)
+    let lα : Q(Lattice $α) ← synthInstanceQ q(Lattice $α)
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/Abs.lean]: If you do a `~q(@abs _ $instLattice $instAddGroup)` match on `f` then you can skip this synthesis (and also the haveI below)

File: Mathlib/Tactic/NormNum/Abs.lean [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+  simp only [Int.cast_negOfNat, neg_mul, abs_neg]
+  refine ⟨ha1, abs_of_nonneg ?_⟩
+  apply mul_nonneg
+  · exact Nat.cast_nonneg' num
+  · simp_all only [invOf_eq_inv, inv_nonneg, Nat.cast_nonneg]
+
+/-- The `norm_num` extension which identifies expressions of the form `|a|`,
+such that `norm_num` successfully recognises `a`. -/
+@[norm_num |_|] def evalAbs : NormNumExt where eval {u α} e := do
+  let .app (f : Q($α → $α)) (a : Q($α)) ← whnfR e | failure
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/Abs.lean]:
```suggestion
  let .app (f : Q($α → $α)) (a : Q($α)) ← whnfR e | failure
  haveI' : $e =Q $f $a := ⟨⟩
```

File: Mathlib/Tactic/NormNum/Abs.lean [hunk 5]
```diff
@@ -0,0 +1,85 @@
...
+Authors: David Renshaw
+-/
+import Mathlib.Tactic.NormNum.Basic
+import Mathlib.Data.Nat.Cast.Order.Ring
+
+
+/-!
+# `norm_num` plugin for `abs`
+
+TODO: plugin for `mabs`
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/Abs.lean]: I guess (a family of) one(s) for `norm` and `nnnorm` and `enorm` would be great too.

File: Mathlib/Tactic/NormNum/Abs.lean [hunk 6]
```diff
@@ -0,0 +1,85 @@
...
+-/
+
+namespace Mathlib.Meta.NormNum
+
+open Lean.Meta Qq
+
+theorem isNat_abs_nonneg {α : Type*} [Ring α] [Lattice α] [IsStrictOrderedRing α]
```
Comment (plp127) [inline Mathlib/Tactic/NormNum/Abs.lean]: I don't think this needs `IsStrictOrderedRing` either

File: Mathlib/Tactic/NormNum/Abs.lean (hunk 4 above)
Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: When I make that change I get this error further down:
```lean
Type mismatch
  isNat_abs_nonneg «$pa»
has type
  IsNat |«$a»| «$na»
but is expected to have type
  IsNat «$e» «$na»

```

Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: ah, but if I also the to `~q` match you suggested then it seems to maybe work...

File: Mathlib/Tactic/NormNum/Abs.lean (hunk 3 above)
Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: Done in https://github.com/leanprover-community/mathlib4/pull/29223/commits/a7b09eab49b2a5bc13ce62af3109122c45f4cace

File: Mathlib/Tactic/NormNum/Abs.lean (hunk 5 above)
Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: TODO updated in https://github.com/leanprover-community/mathlib4/pull/29223/commits/8d34a8828aff94ce4033f7685710fea0da3bd393

File: Mathlib/Tactic/NormNum/Abs.lean (hunk 6 above)
Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: Changed to `IsOrderedRing` in https://github.com/leanprover-community/mathlib4/pull/29223/commits/f09622d1ef4563b6a23b1da3fce6b0010fa0f5ea

File: Mathlib/Tactic/NormNum/Abs.lean [hunk 7]
```diff
@@ -0,0 +1,78 @@
...
+  simp
+
+theorem isNNRat_abs_nonneg {α : Type*} [DivisionRing α] [LinearOrder α]
+    [IsStrictOrderedRing α] {a : α} {num den : ℕ} (ra : IsNNRat a num den) :
+    IsNNRat |a| num den := by
+  obtain ⟨ha1, rfl⟩ := ra
+  refine ⟨ha1, abs_of_nonneg ?_⟩
+  apply mul_nonneg
+  · exact Nat.cast_nonneg' num
+  · simp_all only [invOf_eq_inv, inv_nonneg, Nat.cast_nonneg]
```
Comment (JovanGerb) [inline Mathlib/Tactic/NormNum/Abs.lean]:
```suggestion
  · simp only [invOf_eq_inv, inv_nonneg, Nat.cast_nonneg]
```

File: Mathlib/Tactic/NormNum/Abs.lean [hunk 8]
```diff
@@ -0,0 +1,78 @@
...
+
+theorem isNNRat_abs_neg {α : Type*} [DivisionRing α] [LinearOrder α] [IsStrictOrderedRing α]
+    {a : α} {num den : ℕ} (ra : IsRat a (.negOfNat num) den) : IsNNRat |a| num den := by
+  obtain ⟨ha1, rfl⟩ := ra
+  simp only [Int.cast_negOfNat, neg_mul, abs_neg]
+  refine ⟨ha1, abs_of_nonneg ?_⟩
+  apply mul_nonneg
+  · exact Nat.cast_nonneg' num
+  · simp_all only [invOf_eq_inv, inv_nonneg, Nat.cast_nonneg]
```
Comment (JovanGerb) [inline Mathlib/Tactic/NormNum/Abs.lean]:
```suggestion
  · simp only [invOf_eq_inv, inv_nonneg, Nat.cast_nonneg]
```

File: Mathlib/Tactic/NormNum/Abs.lean (hunk 7 above)
Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: done in https://github.com/leanprover-community/mathlib4/pull/29223/commits/f70c9a7456fefbd72332355a82e636b2eda9b589

File: Mathlib/Tactic/NormNum/Abs.lean (hunk 8 above)
Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: done in https://github.com/leanprover-community/mathlib4/pull/29223/commits/f70c9a7456fefbd72332355a82e636b2eda9b589

**Comment by JovanGerb** [comment]
Thanks! The other `norm_num` extensions mentioned in the TODO at the start of the file seem less important, so I'm happy to leave those for another time.

maintainer merge

File: Mathlib/Tactic/NormNum/Abs.lean [hunk 9]
```diff
@@ -0,0 +1,78 @@
...
+  obtain ⟨ha1, rfl⟩ := ra
+  simp only [Int.cast_negOfNat, neg_mul, abs_neg]
+  refine ⟨ha1, abs_of_nonneg ?_⟩
+  apply mul_nonneg
+  · exact Nat.cast_nonneg' num
+  · simp only [invOf_eq_inv, inv_nonneg, Nat.cast_nonneg]
+
+/-- The `norm_num` extension which identifies expressions of the form `|a|`,
+such that `norm_num` successfully recognises `a`. -/
+@[norm_num |_|] def evalAbs : NormNumExt where eval {u α} e := match e with
```
Comment (adomani) [inline Mathlib/Tactic/NormNum/Abs.lean]:
```suggestion
@[norm_num |_|] def evalAbs : NormNumExt where eval {u α}
```
does this work?

Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: done in 02c83405b6ce2fb316712d6417f553fc49be26b1

Comment (JovanGerb) [reply Mathlib/Tactic/NormNum/Abs.lean]: Is there a style guide on indentation here? I would usually keep the body indented in the same way as with the explicit `match`.

Comment (plp127) [reply Mathlib/Tactic/NormNum/Abs.lean]: I've seen both

Comment (JovanGerb) [reply Mathlib/Tactic/NormNum/Abs.lean]: One day we'll get an autoformatter/whitespace linter to decide it for us :)

Comment (dwrensha) [reply Mathlib/Tactic/NormNum/Abs.lean]: The first example I came upon in core has the indent, so I added it back: https://github.com/leanprover/lean4/blob/e42892cfb6ce409503caa01665d77e6744edb06d/src/Lean/Data/RBTree.lean#L82-L85

**Comment by fpvandoorn** [comment]
bors merge
